US06485886B1
(4-Trichloroacetoxyimino-cyclohexa-2,5-dienylidene)-phenyl-acetonitrile
8 g (36 mmol) of (4-Hydroxyimino-cyclohexa-2,5-dienylidene)-phenyl-acetonitrile, prepared as described in example 1.1, are dissolved in 90 ml of tetrahydrofuran (THF) and cooled in an ice bath. After adding 7.2 g (39 mmol) of trichloroacetyl chloride to the solution, 5.4 g (54 mmol) of triethylamine are added dropwise, keeping the temperature below 5° C. While the reaction mixture is stirred at 5° C. for 50 min, a precipitate is formed. The precipitate is filtered off and washed with THF. The filtrate is concentrated by a rotary evaporator. The residue is diluted with 2-propanol (2-PrOH) and stirred at room temperature overnight. After cooling the mixture in an ice bath, the solid is isolated by filtration and washed with 2-PrOH. The product is obtained in the form of an orange solid,mp 147-148° C.(Dec). The structure is confirmed by the 1H-NMR spectrum (CDCl3). δ [ppm]: 6.97 (dd, 1H), 7.30 (dd, 1H), 7.38 (dd, 1H), 7.52 (s, 5H), 7.65 (dd, 1H). 1H-NMR reveals the presence of a single isomer.

reactant | (4-Hydroxyimino-cyclohexa-2,5-dienylidene)-phenyl-acetonitrile | 36 mmol, 8 g | ON=C1C=CC(C=C1)=C(C#N)C1=CC=CC=C1 | C14H10N2O
reactant | trichloroacetyl chloride | 39 mmol, 7.2 g | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | triethylamine | 54 mmol, 5.4 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
product | (4-Trichloroacetoxyimino-cyclohexa-2,5-dienylidene)-phenyl-acetonitrile | ClC(C(=O)ON=C1C=CC(C=C1)=C(C#N)C1=CC=CC=C1)(Cl)Cl | C16H9Cl3N2O2
